US07291631B2
General Procedure G: EDCI Coupling
To a stirred solution of a 1° or 2° amine (0.1-0.3 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDCI) (1.5 equiv.), 1-hydroxy-benzotriazole hydrate (HOBT) (1.5 equiv.), and diisopropylethylamine (DIPEA) (2.0 equiv.) in CH2Cl2 or DMF (0.05 M), was added a carboxylic acid (1.0-2.0 equiv). The solution was stirred for 16 h at ambient temperature. The reaction was quenched with saturated NaHCO3 solution and extracted three times with CH2Cl2. The combined organic layers were dried over Na2SO4, filtered, and concentrated. The resultant crude material was purified on a silica gel column (5% MeOH/CH2Cl2).

reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.5 equiv. | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-benzotriazole hydrate | 1.5 equiv. | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 2.0 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.05 M | CN(C)C=O | C3H7NO
product | EDCI | CCN=C=NCCCN(C)C | C8H17N3
